### PR TITLE
Prove tile_sum_operator

### PR DESCRIPTION
**Pull request by js2357**
Correct a typo in the definition of `T` in TileStructure.lean.

Prove `tile_sum_operator`. There's one `sorry` left in the proof, which according to the blueprint should follow easily from the fact that the ranges of `σ₁` and `σ₂` are contained in [-S, S]. But unless I'm missing something, that fact isn't in the code yet.

### CODE REVIEW

File: Carleson/FinitaryCarleson.lean [hunk 1]
```diff
@@ -21,16 +21,82 @@ theorem integrable_tile_sum_operator
...
+  refine Finset.sum_eq_zero (fun p hp ↦ ?_)
+  simp only [Finset.mem_filter, Finset.mem_univ, true_and] at hp
+  simp only [mem_Icc, not_and, not_le, toFinset_Icc, Finset.mem_filter, Finset.mem_Icc] at hs
+  rw [T, Set.indicator_of_not_mem]
+  simp only [E, Grid.mem_def, mem_Icc, sep_and, mem_inter_iff, mem_setOf_eq, not_and, not_le]
+  exact fun _ ⟨_, h⟩ _ ↦ hp ▸ hs.2 (hp ▸ h)
+
+/- `Icc_subset` should follow easily from the fact that the ranges of `σ₁` and `σ₂` are
+    contained in [-S, S], but I don't think that fact is currently encoded in Lean. -/
+lemma Icc_subset {x : X} : Icc (σ₁ x) (σ₂ x) ⊆ Icc (-S : ℤ) S := by
```
Comment (fpvandoorn) [inline Carleson/FinitaryCarleson.lean:49]: This should be `range_σ₁_subset` and `range_σ₂_subset`, right?

**Comment by fpvandoorn** [comment]
Anyway, I'll merge your PR, but please fill the sorry in a follow-up.
